US09145380B2
c) 2-[2-(4-Chloro-2-methoxy-phenyl)-ethanesulfonylamino]-5-methyl-benzenesulfonamide
Palladium on carbon (5 wt. %, 0.4 g) was added to a solution of 2-[2-(4-chloro-2-methoxy-phenyl)-ethenesulfonylamino]-5-methyl-benzenesulfonamide (0.55 g, 1.32 mmol) in ethyl acetate (20 mL) and the reaction mixture was shaken under a hydrogen atmosphere (30 psi) for 4 hours. The solution was filtered through a pad of Celite and concentrated under reduced pressure to give 0.31 g (57% yield) of the title compound.

reactant | 2-[2-(4-chloro-2-methoxy-phenyl)-ethenesulfonylamino]-5-methyl-benzenesulfonamide | 1.32 mmol, 0.55 g | ClC1=CC(=C(C=C1)C=CS(=O)(=O)NC1=C(C=C(C=C1)C)S(=O)(=O)N)OC | C16H17ClN2O5S2
catalyst | Palladium on carbon | 0.4 g | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-Chloro-2-methoxy-phenyl)-ethanesulfonylamino]-5-methyl-benzenesulfonamide | 0.31 g, 57% yield | ClC1=CC(=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C=C1)C)S(=O)(=O)N)OC | C16H19ClN2O5S2
